US05811459
N-(2-Pyridylmethyl)-4-[2-(2-benzyloxy-3-pyridyl)ethyl]benzamide
4-[2-(2-benzyloxy-3-pyridyl)ethyl]benzoic acid (0.48 g, 1.44 mmol) and 2-aminomethylpyridine (0.189 g, 1.748 mmol) were dissolved in DMF (20 ml) and cooled to 0° C. Triethylamine (0.15 g, 1.5 mmol) was added followed by diphenylphosphorylazide (0.41 g, 1.48 mmol). The reaction mixture was stirred under argon and allowed to warm to ambient temperature overnight. The reaction was partitioned between EtOAc/water, the organic phase was washed with aqueous sodium bicarbonate, water, dried (MgSO4) and evaporated. The residue was purified by flash chromatography (MeOH/CH2Cl2) followed by recrystallisation from EtOAc/hexane and then from EtOH/water to give the title product.

reactant | 4-[2-(2-benzyloxy-3-pyridyl)ethyl]benzoic acid | 1.44 mmol, 0.48 g | C(C1=CC=CC=C1)OC1=NC=CC=C1CCC1=CC=C(C(=O)O)C=C1 | C21H19NO3
reactant | 2-aminomethylpyridine | 1.748 mmol, 0.189 g | NCC1=NC=CC=C1 | C6H8N2
reactant | Triethylamine | 1.5 mmol, 0.15 g | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphorylazide | 1.48 mmol, 0.41 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | N-(2-Pyridylmethyl)-4-[2-(2-benzyloxy-3-pyridyl)ethyl]benzamide | N1=C(C=CC=C1)CNC(C1=CC=C(C=C1)CCC=1C(=NC=CC1)OCC1=CC=CC=C1)=O | C27H25N3O2
